US07989457B2
Step A. 3-Fluoro-4-(2-methoxy-vinyl)-4′-trifluoromethyl-biphenyl
To a an ambient temperature suspension of potassium tert-butoxide (419 mg, 3.73 mmol) in THF (20 mL) is added (methoxymethyl)triphenylphosphonium chloride (1.28 g, 3.73 mmol) and is stirred at room temperature for 30 min. 3-Fluoro-4′-trifluoromethyl-biphenyl-4-carbaldehyde (500 mg, 1.87 mmol) is added and the reaction mixture continues to stir at room temperature. After 2 h TLC (30% EtOAc/hexane) indicates complete consumption of starting material. The reaction is quenched with saturated aqueous NH4Cl and concentrated. The residue is partitioned between EtOAc (50 mL) and water (20 mL). The aqueous layer is extracted with EtOAc (50 mL) and the combined organic layers are washed with brine, dried (MgSO4), filtered, concentrated and chromatographed (120 g SiO2, 5% EtOAc/Hexanes) to yield the title compound (474 mg, 85%).

reactant | potassium tert-butoxide | 3.73 mmol, 419 mg | CC(C)([O-])C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 3.73 mmol, 1.28 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-Fluoro-4′-trifluoromethyl-biphenyl-4-carbaldehyde | 1.87 mmol, 500 mg | FC=1C=C(C=CC1C=O)C1=CC=C(C=C1)C(F)(F)F | C14H8F4O
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Fluoro-4-(2-methoxy-vinyl)-4′-trifluoromethyl-biphenyl | 474 mg, 85% | FC=1C=C(C=CC1C=COC)C1=CC=C(C=C1)C(F)(F)F | C16H12F4O
